US04663453
4-Bromo-6-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine
A mixture of N-[2-(5-bromo-1-indolinyl)phenyl]-4-methyl-1-piperazinecarboxamide (11.5 g, 27.5 mmoles) and 750 ml of phosphorus oxychloride was stirred until a solution was obtained and then heated under reflux for 40 minutes. The reaction mixture was cooled. Excess phosphorus oxychloride was removed by evaporation at 50°-55° C. The residue was dried for 30 minutes under vacuum. Ice-chilled 2N sodium hydroxide solution (250 ml) and dichloromethane (350 ml) were added to the residue at 4° C. (ice-water bath). The mixture was stirred until all the solid had dissolved. The organic phase was separated and washed with brine (2 times, 200 ml), dried over anhydrous magnesium sulfate and concentrated. Crystallization from ether (100 ml) gave 5.7 g (57%) of product. Recrystallization from isopropanol yielded the analytical sample, mp 203°-204° C.

reactant | N-[2-(5-bromo-1-indolinyl)phenyl]-4-methyl-1-piperazinecarboxamide | 27.5 mmoles, 11.5 g | BrC=1C=C2CCN(C2=CC1)C1=C(C=CC=C1)NC(=O)N1CCN(CC1)C | C20H23BrN4O
solvent | phosphorus oxychloride | 750 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Bromo-6-(4-methyl-1-piperazinyl)-1,2-dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 5.7 g, 57% | BrC=1C=C2C3=C(C(=NC4=C(N3CC2)C=CC=C4)N4CCN(CC4)C)C1 | C20H21BrN4
